US04067726
22.2 g (0.1 mol) of 3-nitrophenyl-acetic acid isopropylamide were dissolved in 150 ml of ethanol and hydrogenated under a hydrogen pressure of 40-50 atmospheres in the presence of Raney nickel at 50°-60° C. When the reaction had finished, the catalyst was filtered off, the filtrate was concentrated by evaporation under reduced pressure and the residue which remained was recrystallized from petroleum ether. 17.5 g (91% of theory) of 3-amino-phenylacetic acid isopropyl-amide of melting point 93°-95° C were obtained.

reactant | 3-nitrophenyl-acetic acid isopropylamide | 0.1 mol, 22.2 g | C(C)(C)NC(CC1=CC(=CC=C1)[N+](=O)[O-])=O | C11H14N2O3
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 3-amino-phenylacetic acid isopropyl-amide | 17.5 g, 91% | C(C)(C)NC(CC1=CC(=CC=C1)N)=O | C11H16N2O
